US04708990
To a hot solution of hexamethylene tetramine (14 g) and sodium iodide (16 g) in 140 g of ethanol was added 4-chloromethylbenzocyclobutene (15.2 g) with stirring. After standing at ambient temperature for 2-3 h, the mixture was diluted with 150 ml of water and then heated at reflux for 2 h. The resulting mixture was steam distilled and the distillate was extracted three times with ether. The combined ether extract was washed with water, dried over magnesium sulfate, and fractionally distilled to give 4-formylbenzocyclobutene: 1H NMR (CDCl3) δ 3.17 (s, 4), 7.15 (d, 1), 7.51 (s, 1), 7.67 (d, 1) and 9.86 ppm (s, 1).

reactant | hexamethylene tetramine | 14 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sodium iodide | 16 g | [I-].[Na+]
reactant | 4-chloromethylbenzocyclobutene | 15.2 g | ClCC1=C2C(CC2)=CC=C1 | C9H9Cl
reactant | ethanol | 140 g | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 4-formylbenzocyclobutene | C(=O)C1=C2C(CC2)=CC=C1 | C9H8O
